US07259266B2
Step 1. Preparation of ethyl 8-(methoxymethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
The ethyl 8-(iodomethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 605e, Step 2 (0.2 g, 0.47 mmole) was dissolved in methanol (5 mL) and then the solution was cooled to 0° C. (ice bath). Sodium methoxide (0.32 mL, 1.41 mmole) was added dropwise to above solution, which was stirred for 2 hours at 0° C. The solution was warmed to room temperature and stirred for an additional 2 hours. The reaction was condensed in vacuo to give a yellow oil (0.15 g, 98%). No further purification was performed: GCMS m/z 330.00 (M+).

reactant | ethyl 8-(iodomethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ICC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)C | C15H14F3IO3
reactant | Sodium methoxide | 1.41 mmole, 0.32 mL | C[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | ethyl 8-(methoxymethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.15 g, 98% | COCC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)C | C16H17F3O4
